US07511050B2
Step E: 7-bromo-9-pentyl-3-[3-(4-phenyl-1H-pyrazol-1-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
To a solution of 9-pentyl-3-[3-(4-phenyl-1H-pyrazol-1-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (234 mg, 0.543 mmol) in THF (45 ml) at room temperature was added N-bromosuccinimide (145 mg, 0.814 mmol). After stirring at 70° C. for 1 hour, the reaction mixture was concentrated and then purified by preparative LCMS to give the desired product (106 mg, 38%) as white solid. LCMS calculated for C23H26BrN8O (M+H): 509.1, 511.1; found: 509.0, 511.1.

reactant | 9-pentyl-3-[3-(4-phenyl-1H-pyrazol-1-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 0.543 mmol, 234 mg | C(CCCC)N1C=2N(C(C=3NC=NC13)=O)C(=NN2)CCCN2N=CC(=C2)C2=CC=CC=C2 | C23H26N8O
reactant | N-bromosuccinimide | 0.814 mmol, 145 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 7-bromo-9-pentyl-3-[3-(4-phenyl-1H-pyrazol-1-yl)propyl]-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 106 mg, 38% | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)CCCN3N=CC(=C3)C3=CC=CC=C3)CCCCC | C23H25BrN8O
